US06248756B1
Step A: Preparation of Ethyl 1-Benzyl-4-(3-methylphenylamino)-piperidine-4-carboxylate
A mixture of 1-benzyl-4-(3-methylphenylamino)piperidine-4-carboxylic acid (3.81 g, 11.7 mmol) and concentrated sulfuric acid (2 mL) in absolute ethanol (80 mL) was heated under reflux overnight. The resultant solution was concentrated under vacuum, and the residue was treated with chloroform saturated with ammonia gas. The mixture was filtered, and the filtrate concentrated. The residue was passed through a small plug of silica gel eluting with chloroform saturated with ammonia gas. Collection and concentration of the eluent under vacuum provided the title compound.

reactant | 1-benzyl-4-(3-methylphenylamino)piperidine-4-carboxylic acid | 11.7 mmol, 3.81 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)NC1=CC(=CC=C1)C | C20H24N2O2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 80 mL | C(C)O | C2H6O
product | Ethyl 1-Benzyl-4-(3-methylphenylamino)-piperidine-4-carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)NC1=CC(=CC=C1)C | C22H28N2O2
